US05023236
The preformed protected dipeptide, Cbz-L-Leu-L-ProOH, (2.0 mmol) was allowed to react with isobutyl chloroformate (0.29 ml, 2.1 mmol), in the presence of N-methylmorpholine (0.24 ml, 2.1 mmol) at 0° C. for 20 min. A solution of H-L-Arg(NO2)CH2Cl.HCl (0.60 g, 2.0 mmol) in dimethylformamide (4 ml) was added dropwise. After stirring for 20 min at 0° C., N-methylmorpholine (0.22 ml, 2.0 mmol) in THF was added. The resulting solution was stirred at 0° C. for an additional 40 min, then at RT for 1 hr. The reaction mixture was diluted with H2O and brine (25 ml each), extracted twice with ethyl acetate (25 ml each). The combined organic layers were washed with 10% citric acid, saturated NaHCO3 and brine (15 ml each), dried over MgSO4, and the solvent was removed in vacuo to give Cbz-L-Leu-L-Pro-L-Arg(NO2)CH2Cl. The product was treated with HF (7 ml) and anisole (0.5 ml) at 0° C. for 20 min. After the HF was removed, the residue was diluted with cold H2O and washed with diethyl ether two times (5 ml each). The organic volatiles were removed under reduced pressure before lyophilizing the crude H-L-Leu-L-Pro-L-Arg-CMK.2HF to a powder. A crude purification of the material was accomplished on a Sephadex SP-C25 (H+form) column using 0-1.0N HCl stepwise gradient which yielded H-L-Leu-L-pro-L-Arg-CMK.2HCl. The product was further purified on a Supelco LCNH2 column eluted with a 10-50% (v/v) hexane/isopropanol (10% methanol) gradient, and dried in vacuo. The product was characterized by 360 MHz 1H NMR. The product was dissolved in water, methanol, or suitable aqueous solutions for analysis or other uses.

reactant | Cbz-L-Leu-L-ProOH | 2.0 mmol | N([C@@H](CC(C)C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C19H26N2O5
reactant | isobutyl chloroformate | 2.1 mmol, 0.29 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 2.1 mmol, 0.24 ml | CN1CCOCC1 | C5H11NO
reactant | H-L-Arg(NO2)CH2Cl.HCl | 2.0 mmol, 0.60 g | N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)CCl.Cl
reactant | N-methylmorpholine | 2.0 mmol, 0.22 ml | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
solvent | brine | 25 ml | [Cl-].[Na+].O
product | Cbz-L-Leu-L-Pro-L-Arg(NO2)CH2Cl | N([C@@H](CC(C)C)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)CCl)CCC1)C(=O)OCC1=CC=CC=C1 | C26H38ClN7O7
